US04981963
Preparation of N,N'-bis-(2-hydroxyethyl)oxamide
A suspension of N,N'-diacetyloxamide (10 g, 0.058 mol) in anhydrous methyl alcohol (50 ml) is charged into a four-necked flask equipped with a reflux condenser, an inlet tube for nitrogen, a dropping funnel, a thermometer, and a magnetic stirrer. A solution of monoethanolamine (8.2 g, 0.134 mol) in anhydrous methyl alcohol (20 ml) is gradually dripped in at 25° C. The reaction is exothermic and the temperature rises up to 60° C. The reaction is allowed to proceed at this temperature for 2 hours, then the reaction mixture is cooled and the precipitate is recovered by filtration. The compound of the title is thus obtained (9.5 g, 0.054 mol, 93% yield) with m.p. 166°-69° C.

reactant | N,N'-diacetyloxamide | 0.058 mol, 10 g | C(C)(=O)NC(=O)C(=O)NC(C)=O | C6H8N2O4
reactant | monoethanolamine | 0.134 mol, 8.2 g | C(O)CN | C2H7NO
reactant | methyl alcohol | 50 ml | CO | CH4O
reactant | methyl alcohol | 20 ml | CO | CH4O
product | N,N'-bis-(2-hydroxyethyl)oxamide | 93% yield | OCCNC(=O)C(=O)NCCO | C6H12N2O4
